US06632810B2
Synthesis of N,N′-bis(1-methyl-4,5,6-trimethoxyindole-2-carbonyl)piperazine:
N-Methyl-4,5,6-trimethoxyindole-2-carboxylic acid (200 mg) and piperazine (35 mg) were reacted in the same manner as in Preparation Example 37 to obtain the title compound.

reactant | N-Methyl-4,5,6-trimethoxyindole-2-carboxylic acid | 200 mg | CN1C(=CC2=C(C(=C(C=C12)OC)OC)OC)C(=O)O | C13H15NO5
reactant | piperazine | 35 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis(1-methyl-4,5,6-trimethoxyindole-2-carbonyl)piperazine | CN1C(=CC2=C(C(=C(C=C12)OC)OC)OC)C(=O)N1CCN(CC1)C(=O)C=1N(C2=CC(=C(C(=C2C1)OC)OC)OC)C | C30H36N4O8
